US09023846B2
5-(2-fluoro-1,1-dimethyl-ethyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (722 mg, 3.16 mmol, prepared as described in the previous step) was dissolved in DCM (5 mL) and SO2Cl2 (0.256 mL, 3.16 mmol) was added dropwise to the stirred solution. The resulting mixture was stirred at room temperature for 16 h and then the solvent was removed under reduced pressure. The resulting residue was chromatographed on a 40-g SiO2 pre-packed column eluting with 0:1-1:4 EtOAc/heptane to yield 4-chloro-5-(2-fluoro-1,1-dimethyl-ethyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester. 1H-NMR (400 MHz, CDCl3) δ: 4.59 (d, J=47 Hz, 2H), 4.40 (q, J=7.1 Hz, 2H), 4.08 (s, 3H), 1.43 (d, J=1.7 Hz, 6H), 1.41 (t, J=7.2 Hz, 3H).

reactant | 5-(2-fluoro-1,1-dimethyl-ethyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)C(CF)(C)C)C | C11H17FN2O2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-5-(2-fluoro-1,1-dimethyl-ethyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1Cl)C(CF)(C)C)C | C11H16ClFN2O2
